US06169107A
After 3.63 g (68.4 mmol) of acrylonitrile and 2.2 ml of 40% methanol solution of N-benzyltrimethyl-ammonium hydroxide was added to a solution of 10.0 g (57.1 mmol) of methyl 2-indolecarboxylate in 150 ml of 1,4-dioxane, the mixture was stirred at 55° C. for an hour. The reaction mixture was concentrated under reduced pressure. The resulting residue was added to a mixture of 5 ml of acetic acid and 500 ml of water. The aqueous layer was extracted twice with methylene chloride and the combined extracts were washed with water. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to give 13.0 g of methyl 1-(2-cyano-ethyl)-2-indolecarboxylate.

reactant | acrylonitrile | 68.4 mmol, 3.63 g | C(C=C)#N | C3H3N
reactant | methanol | 2.2 ml | CO | CH4O
reactant | N-benzyltrimethyl-ammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | methyl 2-indolecarboxylate | 57.1 mmol, 10.0 g | N1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO2
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | methyl 1-(2-cyano-ethyl)-2-indolecarboxylate | 13.0 g | C(#N)CCN1C(=CC2=CC=CC=C12)C(=O)OC | C13H12N2O2
